US07947851B2
Step d) Formation of N-(3-cyclopentylpropyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)-4-[(4-fluorophenyl)ethynyl]benzamide
A solution of 4-bromo-N-(3-cyclopentylpropyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)benzamide (355 mg, 0.73 mmol), 4-fluorophenylacetylene (Apollo, 96 mg, 0.80 mmol), bis(triphenylphosphine)palladium(I) chloride (26 mg, 0.04 mmol), triphenylphosphine (38 mg, 0.15 mmol) and cuprous(I) iodide (7 mg, 0.04 mmol) in DMF (3 mL) and TEA (1 mL) was heated under microwave conditions at 120° C. for 25 min. The reaction mixture was then diluted with Et2O and the precipitate obtained was filtered off. Filtrate was then washed with an aqueous solution of HCl (1N) and brine. The organic layer was dried over MgSO4 and the solvents were removed under reduced pressure. Purification by flash chromatography on silicagel (EtOAc/c-Hex (10/90 to 20/80)) gave 321 mg (84%) of the title compound. HPLC, Rt: 5.67 min (purity: 97.9%). 1H NMR (CDCl3) δ: 7.78 (d, J=8.3 Hz, 1H), 7.44 (m, 2H), 7.31 (AB, J=8.4, Δ=12 Hz, 4H), 7.01 (t, J=8.5 Hz, 2H), 6.75 (dd, J=8.3, 2.1 Hz, 1H), 6.58 (d, J=2.1 Hz, 1H), 3.91 (t, J=7.7 Hz, 2H), 1.40-1.71 (m, 15H), 1.34 (m, 2H), 1.03 (m, 2H).

reactant | 4-bromo-N-(3-cyclopentylpropyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)benzamide | 0.73 mmol, 355 mg | BrC1=CC=C(C(=O)N(C=2C=CC3=C(OC(OC3=O)(C)C)C2)CCCC2CCCC2)C=C1 | C25H28BrNO4
reactant | 4-fluorophenylacetylene | 0.80 mmol, 96 mg | FC1=CC=C(C=C1)C#C | C8H5F
reactant | triphenylphosphine | 0.15 mmol, 38 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | N-(3-cyclopentylpropyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)-4-[(4-fluorophenyl)ethynyl]benzamide | 321 mg, 84% | C1(CCCC1)CCCN(C(C1=CC=C(C=C1)C#CC1=CC=C(C=C1)F)=O)C=1C=CC2=C(OC(OC2=O)(C)C)C1 | C33H32FNO4
